US04518607
To a 0° C. slurry of 8.24 g of imidazole in 15 ml. dry dimethylformamide was added 5.79 g of p-t-butyl-gamma-chlorobutyrophenone and the mixture was stirred overnight at room temperature, then for one day at 60° C. The above solution was poured into 400 ml. of water and extracted three times with ethyl acetate. The combined extracts were washed with water, dried over magnesium sulfate and the solvent evaporated to afford 5.25 g of 1-[4-(4-t-butylphenyl)butan-4-onyl]imidazole as a golden oil.

reactant | imidazole | 8.24 g | N1C=NC=C1 | C3H4N2
reactant | p-t-butyl-gamma-chlorobutyrophenone | 5.79 g | C(C)(C)(C)C1=CC=C(C=C1)C(CCCCl)=O | C14H19ClO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[4-(4-t-butylphenyl)butan-4-onyl]imidazole | 5.25 g | C(C)(C)(C)C1=CC=C(C=C1)C(CCCN1C=NC=C1)=O | C17H22N2O
